US08377923B2
5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole-3-carboxylic acid (172 mg) was dissolved in DMSO (1 ml), followed by stirring at 60° C. for 2 hours. The reaction solution was cooled to room temperature and water was added thereto, followed by stirring for 15 minutes. The formed solid was collected by filtration and washed with water. The resulting solid was dissolved in ethyl acetate and washed with water and then saturated brine in this order. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting solid was washed with ethyl acetate to obtain 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole (103 mg), as a white solid.

reactant | 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole-3-carboxylic acid | 172 mg | CC(C)(OC1=CC=C(C=C1)C1=NC(=NO1)C(=O)O)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C22H18F3N5O4
reactant | water | O | H2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 5-[4-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]-1,2,4-oxadiazole | 103 mg | CC(C)(OC1=CC=C(C=C1)C1=NC=NO1)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C21H18F3N5O2
